### PR TITLE
[Merged by Bors] - feat(CategoryTheory): (Co)limits in preorders

### PR DESCRIPTION
**Pull request by FernandoChu**
Characterize (co)limits in preorders as glbs/lubs, plus some other instances.

### CODE REVIEW

File: Mathlib/CategoryTheory/Limits/Preorder.lean [hunk 1]
```diff
@@ -1,27 +1,135 @@
...
+/-- The cone associated to a lower bound of a functor. -/
+def coneOfLowerBound (x : lowerBounds (Set.range F.obj)) : Cone F where
+  pt := x
+  π := {
+    app i := by apply homOfLE; apply x.prop; simp
+  }
+
+/-- The lower bound associated to a cone of a functor. -/
+def lowerBoundOfCone (c : Cone F) : lowerBounds (Set.range F.obj) where
+  val := c.pt
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Preorder.lean]: It would be more standard to have this as a lemma which says that `c.pt` belongs to `lowerBounds`.

File: Mathlib/CategoryTheory/Limits/Preorder.lean [hunk 2]
```diff
@@ -1,27 +1,135 @@
...
+  property x p := by
+    obtain ⟨i, p⟩ := p
+    rw [← p]
+    exact (c.π.app i).le
+
+/-- If a cone is a limit, its point is a glb. -/
+lemma isGLB_IsLimit (c : Cone F) (h : IsLimit c) : IsGLB (Set.range F.obj) c.pt :=
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Preorder.lean]:
```suggestion
lemma isGLB_of_isLimit {c : Cone F} (h : IsLimit c) : IsGLB (Set.range F.obj) c.pt :=
```

File: Mathlib/CategoryTheory/Limits/Preorder.lean [hunk 3]
```diff
@@ -1,27 +1,135 @@
 /-
 Copyright (c) 2025 Sina Hazratpour. All rights reserved.
 Released under Apache 2.0 license as described in the file LICENSE.
-Authors: Sina Hazratpour, Joël Riou
+Authors: Fernando Chu, Sina Hazratpour, Joël Riou
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Preorder.lean]:
```suggestion
Authors: Sina Hazratpour, Joël Riou, Fernando Chu
```
We usually append our names rather than prepend it to the list.

File: Mathlib/CategoryTheory/Limits/Preorder.lean [hunk 4]
```diff
@@ -1,27 +1,135 @@
...
+variable {C : Type u} [Preorder C]
+variable {J : Type u'} [Category.{v} J]
+variable (F : J ⥤ C)
+
+/-- The cone associated to a lower bound of a functor. -/
+def coneOfLowerBound (x : lowerBounds (Set.range F.obj)) : Cone F where
+  pt := x
+  π := {
+    app i := by apply homOfLE; apply x.prop; simp
+  }
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Preorder.lean]: It seems that in the order API, a more standard phrasing would be `x ∈ lowerBounds _` rather than using the coercion of `Set` to `Type`. In the definition of `app`, please try to avoid going into tactic mode (even though we know it does matter too much).

File: Mathlib/CategoryTheory/Limits/Preorder.lean (hunk 3 above)
Comment (FernandoChu) [reply Mathlib/CategoryTheory/Limits/Preorder.lean]: Oh my bad, thanks for the clarification!

**Comment by FernandoChu** [comment]
Thanks for the review! I've implemented the changes.

File: Mathlib/CategoryTheory/Limits/Shapes/BinaryProducts.lean [hunk 5]
```diff
@@ -124,6 +124,9 @@ theorem pair_obj_left (X Y : C) : (pair X Y).obj ⟨left⟩ = X :=
 theorem pair_obj_right (X Y : C) : (pair X Y).obj ⟨right⟩ = Y :=
   rfl
 
+lemma pair_eq (F : Discrete WalkingPair ⥤ C) : F = pair (F.obj ⟨left⟩) (F.obj ⟨right⟩) := by
+  ext i; cases i <;> simp
+
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Shapes/BinaryProducts.lean]: We should refrain from introducing such lemmas, you should use `diagramIsoPair` instead.

Comment (FernandoChu) [reply Mathlib/CategoryTheory/Limits/Shapes/BinaryProducts.lean]: Done.

**Comment by FernandoChu** [comment]
-awaiting-author

File: Mathlib/CategoryTheory/Discrete/Basic.lean [hunk 6]
```diff
@@ -172,6 +176,14 @@ theorem functor_map {I : Type u₁} (F : I → C) {i : Discrete I} (f : i ⟶ i)
 theorem functor_obj_eq_as {I : Type u₁} (F : I → C) (X : Discrete I) :
     (Discrete.functor F).obj X = F X.as :=
   rfl
+
+@[ext]
+lemma functor_ext {I : Type u₁} (G F : Discrete I ⥤ C) (h : (i : I) → G.obj ⟨i⟩ = F.obj ⟨i⟩) :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Discrete/Basic.lean]: For `ext` lemmas, we usually keep implicit the variables that can be inferred from the goal:
```suggestion
lemma functor_ext {I : Type u₁} {G F : Discrete I ⥤ C} (h : (i : I) → G.obj ⟨i⟩ = F.obj ⟨i⟩) :
```

**Comment by FernandoChu** [comment]
-awaiting-author

File: Mathlib/CategoryTheory/Limits/Preorder.lean [hunk 7]
```diff
@@ -1,38 +1,103 @@
...
 
-/-- The least element in a preordered type is initial in the category
-associated to this preorder. -/
-def isInitialBot : IsInitial (⊥ : C) := IsInitial.ofUnique _
+/-- The cone associated to a lower bound of a functor. -/
+def coneOfLowerBound {x : C} (h : x ∈ lowerBounds (Set.range F.obj)) : Cone F where
+  pt := x
+  π := {
+    app i := homOfLE (h (Set.mem_range_self _))
+  }
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Preorder.lean]: Untested, by this is ok for one liners:
```suggestion
  π := { app i := homOfLE (h (Set.mem_range_self _)) }
```

File: Mathlib/CategoryTheory/Limits/Preorder.lean [hunk 8]
```diff
@@ -1,38 +1,103 @@
...
+    exact ⟨limitCone.cone.pt, isGLB_of_isLimit F limitCone.isLimit⟩
+  · obtain ⟨l, isGLB⟩ := h
+    exact ⟨⟨⟨coneOfLowerBound F isGLB.1, isLimitOfIsGLB F _ isGLB⟩⟩⟩
+
+/-- The cocone associated to an upper bound of a functor -/
+def coconePt_mem_upperBounds {x : C} (h : x ∈ upperBounds (Set.range F.obj)) : Cocone F where
+  pt := x
+  ι := {
+    app i := homOfLE (h (Set.mem_range_self _))
+  }
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Preorder.lean]:
```suggestion
  ι := { app i := homOfLE (h (Set.mem_range_self _)) }
```

File: Mathlib/CategoryTheory/Limits/Preorder.lean [hunk 9]
```diff
@@ -1,38 +1,103 @@
...
+    exact ⟨⟨⟨coconePt_mem_upperBounds F isLUB.1, isColimitOfIsLUB F _ isLUB⟩⟩⟩
+
+end
+
+noncomputable section HasTerminal
+
+variable [Preorder C] [HasTerminal C]
+
+/-- A preorder with a terminal object has a greatest element. -/
+def orderTopOfHasTerminal : OrderTop C where
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Preorder.lean]: Could you make a definition `IsTerminal.orderTop`?

File: Mathlib/CategoryTheory/Limits/Preorder.lean [hunk 10]
```diff
@@ -42,10 +107,46 @@ variable [Preorder C] [OrderTop C]
...
+instance (priority := low) : HasInitial C := hasInitial_of_unique ⊥
+
+end OrderBot
+
+noncomputable section HasBinaryProducts
+
+variable [PartialOrder C] [HasBinaryProducts C]
+
+/-- If a partial order has binary products, then it is a inf-semilattice -/
+def semilatticeInfOfHasBinaryProducts : SemilatticeInf C where
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Preorder.lean]: Could you generalize this definition (and its dual) by allowing the user to provide a family of limit binary fans instead of `X ⨯ Y`?

File: Mathlib/CategoryTheory/Limits/Preorder.lean (hunk 9 above)
Comment (FernandoChu) [reply Mathlib/CategoryTheory/Limits/Preorder.lean]: That lemma and its dual are already in the `IsTerminal` file, should these be moved here?

Comment (FernandoChu) [reply Mathlib/CategoryTheory/Limits/Preorder.lean]: Ignore the above comment, a different lemma was there. I've added the suggested definition.

**Comment by FernandoChu** [comment]
Thanks for the review.

I refactored the file a bit to be hopefully easier to read. I also noticed there is a duplication in Mathlib of `isTerminalTop : OrderTop`. I removed the duplicated definition from the `IsTerminal` file and kept the one in the `Preorder` file. I'm not sure how to put a `deprecated alias` as putting one in the `IsTerminal` file pointing to the `Preorder` file would give a circular import dependency.

-awaiting-author

File: Mathlib/CategoryTheory/Discrete/Basic.lean [hunk 11]
```diff
@@ -172,6 +176,14 @@ theorem functor_map {I : Type u₁} (F : I → C) {i : Discrete I} (f : i ⟶ i)
 theorem functor_obj_eq_as {I : Type u₁} (F : I → C) (X : Discrete I) :
     (Discrete.functor F).obj X = F X.as :=
   rfl
+
+@[ext]
+lemma functor_ext {I : Type u₁} {G F : Discrete I ⥤ C} (h : (i : I) → G.obj ⟨i⟩ = F.obj ⟨i⟩) :
+    G = F := by
+  fapply Functor.ext
+  · intro I; rw [h]
+  · intro ⟨X⟩ ⟨Y⟩ ⟨⟨p⟩⟩; simp at p; induction p; simp
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Discrete/Basic.lean]: This is a nonterminal simp: it should be squeezed (by replacing `simp at p` by the output of `simp?`).

Comment (FernandoChu) [reply Mathlib/CategoryTheory/Discrete/Basic.lean]: Thanks for catching this, it's corrected now.

**Comment by FernandoChu** [comment]
Thanks for the review. As you've probably already seen I decided to not fix the duplication problem of `isTerminalTop` in this PR; another PR will fix this.

-awaiting-author

File: Mathlib/CategoryTheory/Limits/Preorder.lean [hunk 12]
```diff
@@ -1,75 +1,189 @@
...
+    HasColimit F ↔ ∃ x, IsLUB (Set.range F.obj) x := by
+  constructor <;> intro h
+  · let limitCocone := getColimitCocone F
+    exact ⟨limitCocone.cocone.pt, isLUB_of_isColimit F limitCocone.isColimit⟩
+  · obtain ⟨l, isLUB⟩ := h
+    exact ⟨⟨⟨coconePt_mem_upperBounds F isLUB.1, isColimitOfIsLUB F _ isLUB⟩⟩⟩
+
+end
+
+noncomputable section
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Preorder.lean]: Could you remove this and label explicitly the few definitions which depends on a choice?

**Comment by FernandoChu** [comment]
Thanks for the review. Sorry for introducing mistakes after refactoring, I'll be more careful next times.

-awaiting-author
